US07947680B2
Step 1: 3-Acetylamino-adamantane-1-carboxylic acid
To a 10-L reactor was added 1-adamantanecarboxylic acid (503 g, 2.79 mol; TCI America, Wellesley Hills, Mass., USA) and 70% nitric acid (400 mL, 6.72 mol), and the resulting suspension was cooled at 0° C. with a recirculating chiller. To the mixture was slowly added 98% sulfuric acid (3.00 L, 55.5 mol) at such a rate that the temperature was kept below 10° C. Once the addition completed, acetonitrile (2.00 L, 38.5 mol) was added at such a rate that the temperature was kept below 10° C. After all the acetonitrile was added, the reaction was stirred at 0° C. for 1 hour. The crude reaction was then added to a 20-L reactor filled with about 10-L of ice mixed with a small amount of water and the resulting mixture was stirred and allowed to warm to room temperature. The solids were then filtered and washed with water. More solids precipitated from the acidic aqueous layer and these were filtered as well and washed with water. The combined solid material was then dried under high vacuum at 50° C. for 2 days to afford 432 g (73%) of the title compound, 3-acetylamino-adamantane-1-carboxylic acid, as a white solid.

reactant | 1-adamantanecarboxylic acid | 2.79 mol, 503 g | C12(CC3CC(CC(C1)C3)C2)C(=O)O | C11H16O2
reactant | nitric acid | 6.72 mol, 400 mL | [N+](=O)(O)[O-] | HNO3
reactant | sulfuric acid | 55.5 mol, 3.00 L | S(O)(O)(=O)=O | H2O4S
reactant | acetonitrile | 38.5 mol, 2.00 L | C(C)#N | C2H3N
solvent | water | O | H2O
product | 3-Acetylamino-adamantane-1-carboxylic acid | 432 g, 73% | C(C)(=O)NC12CC3(CC(CC(C1)C3)C2)C(=O)O | C13H19NO3
